US09062059B2
2-bromo-5-(fluoromethyl)pyridine (F-1)
To a stirred solution of (6-bromopyridin-3-yl)methanol (1.00 g, 5.32 mmol) in dichloromethane (25 mL) at 0° C. was added DAST (0.70 mL, 5.32 mmol) and the resulting solution was stirred at 0° C. for one hour. The mixture was washed with a saturated sodium bicarbonate solution and concentrated. Flash column separation using a 0-10% ethyl acetate/hexane gradient gave F-1 (0.37 g, 37%). LRMS (ES) (M+14)+: observed=190.0/192.0, calculated=190.0/192.0.

reactant | (6-bromopyridin-3-yl)methanol | 5.32 mmol, 1.00 g | BrC1=CC=C(C=N1)CO | C6H6BrNO
reactant | DAST | 5.32 mmol, 0.70 mL | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 2-bromo-5-(fluoromethyl)pyridine | BrC1=NC=C(C=C1)CF | C6H5BrFN
